US05998436
Synthesis of 1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 800 mg of the mixed solution (1:1) of 4N hydrochloric acid and acetic acid was added 160 mg of ethyl 1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux with stirring for 30 minutes. After adding 0.5 ml of distilled water, the solution was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 145 mg of the title compound as a pale brown powder.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl 1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 160 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)C)F | C18H13ClF3N3O3
solvent | water | 0.5 ml | O | H2O
product | 1-(6-amino-5-fluoro-3-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 145 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)C)F | C16H9ClF3N3O3
